US07521447B2
Step C: 5-Fluoro-2-(1-isobutyl-1H-indazol-5-yloxy)-benzonitrile:
To a solution of 1-isobutyl-1H-indazol-5-ol (2.33 g, 12.2 mmol) and K2CO3 (2.03 g, 14.7 mmol) in DMF (75 mL) was added 2,5-difluorobenzonitrile (1.87 g. 13.5 mmol). The mixture was heated to 110° C. for 18 hours under N2 atmosphere. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in dichloromethane. The solution was washed with 1N HCl, filtered, and concentrated under reduced pressure. The residue was chromatographed on Biotage eluting with hexanes/ether (5:2) to afford 3.05 g of pale yellow oil (81% yield).

reactant | 1-isobutyl-1H-indazol-5-ol | 12.2 mmol, 2.33 g | C(C(C)C)N1N=CC2=CC(=CC=C12)O | C11H14N2O
reactant | K2CO3 | 14.7 mmol, 2.03 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,5-difluorobenzonitrile | 13.5 mmol, 1.87 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 5-Fluoro-2-(1-isobutyl-1H-indazol-5-yloxy)-benzonitrile | 3.05 g, 81% yield | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NN(C2=CC1)CC(C)C | C18H16FN3O
